US04976742
2. 2-methyl-4-chloro-5-ethylaminophenol (novel compound)
A mixture of 3 g of 4-chloro-2-methyl-5-aminophenol (0.016 mol), 2.6 g of ethyliodide (0.017 mol), 1.35 g of sodium hydrogen carbonate (0.016 mol) and 30 ml of ethanol was refluxed for 7 hours. After cooling and dilution with 50 ml of water, the solution was neutralized with a sodium hydrogen carbonate solution and then extracted three times with 50 ml of ethylacetate. The extract was dried over sodium sulfate and concentrated to dryness. The residue was recrystallized from toluene. Beige crystals melting at 205° C. were obtained.

reactant | 4-chloro-2-methyl-5-aminophenol | 0.016 mol, 3 g | ClC1=CC(=C(C=C1N)O)C | C7H8ClNO
reactant | ethyliodide | 0.017 mol, 2.6 g | C(C)I | C2H5I
reactant | sodium hydrogen carbonate | 0.016 mol, 1.35 g | C(O)([O-])=O.[Na+]
reactant | ethanol | 30 ml | C(C)O | C2H6O
solvent | water | 50 ml | O | H2O
product | 2-methyl-4-chloro-5-ethylaminophenol | CC1=C(C=C(C(=C1)Cl)NCC)O | C9H12ClNO
